US08791107B2
1-(4-(5-(6-chloro-2,3-dihydro-1H-inden-1-yl)-6-oxo-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridin-2-yl)phenyl)-3-methylurea
The title compound was prepared in a manner similar to EXAMPLE 84 using 2-chloro-5-(6-chloro-2,3-dihydro-1H-inden-1-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one (PREPARATION x41, 90 mg, 0.230 mmol), 1-methyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea (127 mg, 0.460 mmol) and PdCl2(dppf) (8.42 mg, 0.012 mmol) in dioxane (2 mL) and aqueous saturated NaHCO3 (0.4 mL). 1H NMR (400 MHz, DMSO-d6) δ 2.36-2.45 (m, 2H), 2.62-2.66 (d, 3H), 3.08-3.22 (m, 3H), 3.55-3.67 (m, 3H), 3.95-4.10 (m, 1H), 4.13-4.30 (m, 1H), 4.38-4.66 (m, 2H), 6.03-6.16 (m, 1H), 7.14-7.43 (m, 4H), 7.43-7.52 (d, 2H), 8.03-8.16 (d, 2H), 8.72-8.82 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C26H25ClN6O3, 505.17. found 505.4.

reactant | 2-chloro-5-(6-chloro-2,3-dihydro-1H-inden-1-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | 0.230 mmol, 90 mg | ClC1=NC=2N3C(C(N(C2C=N1)C1CCC2=CC=C(C=C12)Cl)=O)COCC3 | C18H16Cl2N4O2
reactant | 1-methyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea | 0.460 mmol, 127 mg | CNC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H21BN2O3
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 0.4 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 0.012 mmol, 8.42 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(4-(5-(6-chloro-2,3-dihydro-1H-inden-1-yl)-6-oxo-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridin-2-yl)phenyl)-3-methylurea | ClC1=CC=C2CCC(C2=C1)N1C=2C=NC(=NC2N2C(C1=O)COCC2)C2=CC=C(C=C2)NC(=O)NC | C26H25ClN6O3
